US07632832B2
Step B. 1-Phenyl-4-pyridin-4-yl-1,2-dihydro-3H-pyrazol-3-one
N′-Phenyl-2-pyridin-4-ylacetohydrazide (460 mg, 2.02 mmol) and calcium hydride (141 mg, 3.34 mmol) were dissolved in dimethylformamide (8 mL) and heated at 170° C. After 8 h, the reaction cooled to ambient temperature and was filtered. The mixture was concentrated and redissolved in dichloromethane (50 mL). The precipitate was filtered and dried under high vacuum overnight to give the desired product. MS 238.04 (M+1)

reactant | N′-Phenyl-2-pyridin-4-ylacetohydrazide | 2.02 mmol, 460 mg | C1(=CC=CC=C1)NNC(CC1=CC=NC=C1)=O | C13H13N3O
reactant | calcium hydride | 3.34 mmol, 141 mg | [H-].[Ca+2].[H-]
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 1-Phenyl-4-pyridin-4-yl-1,2-dihydro-3H-pyrazol-3-one | C1(=CC=CC=C1)N1NC(C(=C1)C1=CC=NC=C1)=O | C14H11N3O
